US05624943
Under the conditions of example 2 A, 600 mg of 3-{3-[3-(4-acetyl-3-hydroxy-2-propylphenoxy)-propoxy]-2-pyridyl}-propionic acid methyl ester in the presence of 940 mg of cesium carbonate instead of potassium carbonate is reacted with 205 mg of iodomethane, worked up, and the crude product is chromatographed on silica gel with hexane/0-10% ethyl acetate. 570 mg of 3-{3-[3-(4-acetyl-3-methoxy-2-propylphenoxy)-propoxy]-2-pyridyl}-propionic acid methyl ester is obtained as oil.

reactant | 3-{3-[3-(4-acetyl-3-hydroxy-2-propylphenoxy)-propoxy]-2-pyridyl}-propionic acid methyl ester | 600 mg | COC(CCC1=NC=CC=C1OCCCOC1=C(C(=C(C=C1)C(C)=O)O)CCC)=O | C23H29NO6
reactant | cesium carbonate | 940 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | iodomethane | 205 mg | IC | CH3I
product | 3-{3-[3-(4-acetyl-3-methoxy-2-propylphenoxy)-propoxy]-2-pyridyl}-propionic acid methyl ester | 570 mg | COC(CCC1=NC=CC=C1OCCCOC1=C(C(=C(C=C1)C(C)=O)OC)CCC)=O | C24H31NO6
